US09163027B2
2-{[2-(4-fluorophenoxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 1 above from 5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine-2-thiol and 4-fluorophenoxy-ethylbromide in 57% yield; EM (calc.): 318.1; MS (ESI) m/e: 319.1 (M+H)+. NMR (DMSO-d6, 400 MHz) δ ppm: 7.11 (m, 3H), 7.00 (m, 2H), 4.31 (t, 2H), 3.59 (t, 2H), 2.67 (s, 3H), 2.55 (s, 3H).

reactant | 5,7-dimethyl-[1,2,4]-triazolo[1,5-a]pyrimidine-2-thiol | CC1=NC=2N(C(=C1)C)N=C(N2)S | C7H8N4S
reactant | 4-fluorophenoxy-ethylbromide | FC1=CC=C(OCCBr)C=C1 | C8H8BrFO
product | 2-{[2-(4-fluorophenoxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine | 57% yield | FC1=CC=C(OCCSC2=NN3C(N=C(C=C3C)C)=N2)C=C1 | C15H15FN4OS
